US06395897B1
The tert-butyl ester from above (1 g, 3.47 mmol) was dissolved in 10 mL CH2Cl2 and 5 mL trifluoroacetic acid was added. The reaction mixture was stirred for 1 h. Solvents were evaporated and the residue was taken up in 2×10 mL CH2Cl2 and evaporated to an oil. In a separate flask, picolinic acid (470 mg, 3.82 mmol) was dissolved in 10 mL DMF and the resulting solution was cooled to 0° C. EDC (787 mg, 4.1 mmol) and HOBT (554 mg, 4.1 mmol) were added and the reaction mixture was stirred at 0° C. for 1 h. In a separate flask, the free amine prepared above was dissolved in 5 mL DMF and 1.5 mL N-methylmorpholine was added. This solution was added to the reaction mixture at 0° C. The reaction mixture was allowed to stir at ambient temperature for 16 h after which time it was poured into a mixture of ice/5% citric acid (100 mL) and extracted with 4×30 mL EtOAc. The combined EtOAc extracts were washed with 3×100 mL brine. 2×100 mL NaHCO3. 1×100 mL brine, dried with Na2SO4, and evaporated to an oil which was dried under vacuum yielding 990 mg (100%) of pyridine-2-carboxylic acid [1-(N-methoxy-N-methylcarbamoyl)-3-methylbutyl]amide. This was used without further purification.

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | picolinic acid | 3.82 mmol, 470 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | EDC | 4.1 mmol, 787 mg
reactant | HOBT | 4.1 mmol, 554 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 1.5 mL | CN1CCOCC1 | C5H11NO
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | pyridine-2-carboxylic acid [1-(N-methoxy-N-methylcarbamoyl)-3-methylbutyl]amide | 990 mg, 100% | CON(C(=O)C(CC(C)C)NC(=O)C1=NC=CC=C1)C | C14H21N3O3
